US07598391B2
{[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid methyl ester
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (31 mg. 0.095 mmol), glycine methyl ester hydrochloride (24 mg, 0.20 mmol) and sodium triacetoxyborohydride (61 mg, 0.286 mmol) to afford 15 mg (39%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.095 mmol, 31 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | glycine methyl ester hydrochloride | 0.20 mmol, 24 mg | Cl.COC(CN)=O
reactant | sodium triacetoxyborohydride | 0.286 mmol, 61 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | {[2-(3,3-Dicyclohexyl-ureido)-thiazol-5-ylmethyl]-amino}-acetic acid methyl ester | 15 mg, 39% | COC(CNCC1=CN=C(S1)NC(=O)N(C1CCCCC1)C1CCCCC1)=O | C20H32N4O3S
